US09315502B2
Intermediate M: 6-Bromo-3-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine
The title compound, light brown solid (0.3 g, 40%), MS (ISP) m/z=341.4 [(M+H)+], mp 151° C., was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available 4-trifluoromethyl-phenylboronic acid (0.45 g, 2.38 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | 4-trifluoromethyl-phenylboronic acid | 2.38 mmol, 0.45 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 6-Bromo-3-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C2=CC=C(C=C2)C(F)(F)F | C14H8BrF3N2
